US08729078B2
In a 100 mL round-bottomed flask, 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-2-carboxamide (61.0 mg, 244 μmol, Eq: 1.10), 2-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-4-iodonicotinaldehyde (100 mg, 222 μmol, Eq: 1.00) and [1,1′-bis(Diphenylphosphino)ferrocene]dichloro palladium (II) (16.2 mg, 22.2 μmol, Eq: 0.1) were combined with dioxane (667 μl) to give a red solution. Potassium carbonate (61.3 mg, 443 μmol, Eq: 2) in water (66.7 μl) was added and the resultant suspension was heated to 70° C. and stirred for 32 h. The reaction was diluted with ethyl acetate (10 mL), washed with brine, dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 12 g, 10% to 15% EtOAc in hexanes to give 4-[2-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-3-formyl-pyridin-4-yl]-1-methyl-1H-pyrrole-2-carboxylic acid amide (28 mgs, 28.2%) as an off white solid. 1H NMR (DMSO-d6) δ: 10.06 (s, 1H), 8.72 (d, J=5.3 Hz, 1H), 8.53 (d, J=2.5 Hz, 1H), 7.91 (d, J=1.8 Hz, 1H), 7.79 (dd, J=13.3, 1.8 Hz, 1H), 7.73 (d, J=5.3 Hz, 1H), 7.69-7.76 (m, 1H), 7.50 (d, J=1.8 Hz, 1H), 7.17 (d, J=2.0 Hz, 1H), 7.12 (br. s., 1H), 3.93 (s, 3H), 1.39 (s, 9H); MS m/e 448.5 (M+H+).

reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-2-carboxamide | 244 μmol, 61.0 mg | CN1C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(=O)N | C12H19BN2O3
reactant | 2-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-4-iodonicotinaldehyde | 222 μmol, 100 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=C(C=O)C(=CC=N1)I | C18H15FIN3O2
reactant | dioxane | 667 μl | O1CCOCC1 | C4H8O2
reactant | Potassium carbonate | 443 μmol, 61.3 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 66.7 μl | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(Diphenylphosphino)ferrocene]dichloro palladium (II) | 22.2 μmol, 16.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-3-formyl-pyridin-4-yl]-1-methyl-1H-pyrrole-2-carboxylic acid amide | 28 mgs, 28.2% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=NC=CC(=C1C=O)C=1C=C(N(C1)C)C(=O)N | C24H22FN5O3
